US04189581
5.8 g of trimethoprim are suspended in 80 ml of chloroform. After addition of 4 g of triethylamine 2.5 g of ethoxyacetyl chloride are dripped in at room temperature. The mixture is stirred for another hour at 50° C. and then cooled. The triethylammonium chloride is separated by filtration, the filtrate is concentrated and the residue is recrystallized from isopropanol. 4 g of 2-ethoxyacetamido-4-amino-5-(3,4,5-trimethoxybenzyl)-pyrimidine of melting point 175° to 176° C. are obtained.

reactant | trimethoprim | 5.8 g | COC=1C=C(C=C(C1OC)OC)CC=2C=NC(=NC2N)N | C14H18N4O3
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | C(C)OCC(=O)Cl | C4H7ClO2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxyacetamido-4-amino-5-(3,4,5-trimethoxybenzyl)-pyrimidine | 4 g | C(C)OCC(=O)NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OC | C18H24N4O5
